US06114532
4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-N'-(methoxycarbonyl)benzamidine
Prepared analogously to Example 97 from 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-benzamidine-hydrochloride, methyl chloroformate and potassium carbonate in tetrahydrofuran.

reactant | 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-benzamidine-hydrochloride | Cl.C(C)OC(=O)CN(C=1C=C2C=C(N(C2=CC1)C)CC1=CC=C(C(=N)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[(5-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-indol-2-yl)-methyl]-N'-(methoxycarbonyl)benzamidine | C(C)OC(=O)CN(C=1C=C2C=C(N(C2=CC1)C)CC1=CC=C(C(=NC(=O)OC)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C32H31N5O6S
